US06977262B2
Ethyl 4,7-dihydro-4-(1-naphthyl)-6-trifluoromethyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from naphthalene-1-aldehyde, 3-aminopyrazole and ethyl trifluoroacetoacetate in the same manner as in Example 1.

reactant | naphthalene-1-aldehyde | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
product | Ethyl 4,7-dihydro-4-(1-naphthyl)-6-trifluoromethyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | C1(=CC=CC2=CC=CC=C12)C1C=2C(NC(=C1C(=O)OCC)C(F)(F)F)=NNC2 | C20H16F3N3O2
